US07851473B2
(2) N-(5-Morpholin-4-yl-1,3,4-oxadiazol-2-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl (5-morpholin-4-yl-1,3,4-oxadiazol-2-yl)carbamate (269 mg, 0.777 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (211 mg, 0.854 mmol) and diisopropylethylamine (0.149 ml, 0.854 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by high performance liquid chromatography (YMC HPLC Column eluted with 10% to 100% Liquid A; Liquid A: a 0.1% solution of trifluoroacetic acid in acetonitrile; Liquid B: an aqueous 0.1% trifluoroacetic acid solution) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 31 mg (9.0%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (5-morpholin-4-yl-1,3,4-oxadiazol-2-yl)carbamate | 0.777 mmol, 269 mg | N1(CCOCC1)C1=NN=C(O1)NC(OCC(Cl)(Cl)Cl)=O | C9H11Cl3N4O4
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.854 mmol, 211 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.854 mmol, 0.149 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(5-Morpholin-4-yl-1,3,4-oxadiazol-2-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 31 mg, 9.0% | N1(CCOCC1)C1=NN=C(O1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C19H22N8O3S
